US06448282B1
n-BuLi (0.192 ml, 0.48 mmol) was added to a solution of 4-(2,2-dibromovinyl)-1-(triphenylmethyl)imidazole (108 mg, 0.22 mmol) in THF (5 ml) at −78° C. under N2. The reaction mixture was quenched by the addition of saturated ammonium chloride (50 ml) and extracted with ethyl acetate (75 ml). The ethyl acetate layer was washed with water (50 ml), separated, dried over anhydrous sodium sulfate, filtered and concentrated. Purification by flash chromatography gave 2[1-triphenylmethyl-1H-imidazol-4yl]ethyne, which was deprotected with 2N HCL to give 18 mg of final product.

reactant | n-BuLi | 0.48 mmol, 0.192 ml | [Li]CCCC
reactant | 4-(2,2-dibromovinyl)-1-(triphenylmethyl)imidazole | 0.22 mmol, 108 mg | BrC(=CC=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)Br | C24H18Br2N2
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | 2[1-triphenylmethyl-1H-imidazol-4yl]ethyne | C1(=CC=CC=C1)C(N1C=NC(=C1)C#C)(C1=CC=CC=C1)C1=CC=CC=C1 | C24H18N2
